US07745477B2
a) Preparation of 1-bromo-3-chloro-5-cyclopropylbenzene
To a solution of 1,3-dibromo-5-chlorobenzene (500 mg, 1.85 mmol) in THF (1 ml) was added cyclopropylmagnesium bromide (3698 μl, 0.5M solution in THF, 1.85 mmol) in a sealed tube and the reaction mixture was degassed with argon for 5 min before tetrakis(triphenylphosphine)palladium (0) (107 mg, 0.09 mmol) was added. The resulting solution was heated to 70° C. overnight, cooled to RT and then quenched with sat. NH4Cl solution and extracted with pentane. The organic phases were combined, washed with water and brine, dried over MgSO4 and filtered through a short pad of silica gel to give the desired product (272 mg, 64%) which did not require further purification. 1H NMR (CDCl3, 300 MHz): 7.28 (aptt, J=2.0 Hz, 1H), 7.08 (aptt, J=1.5 Hz, 1H), 6.97 (aptt, J=1.5 Hz, 1H), 1.83 (m, 1H), 1.04-0.97 (m, 2H), 0.72-0.67 (m, 2H).

reactant | 1,3-dibromo-5-chlorobenzene | 1.85 mmol, 500 mg | BrC1=CC(=CC(=C1)Cl)Br | C6H3Br2Cl
reactant | cyclopropylmagnesium bromide | 1.85 mmol, 0.5M, 3698 μl | C1(CC1)[Mg]Br
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.09 mmol, 107 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-bromo-3-chloro-5-cyclopropylbenzene | 272 mg, 64% | BrC1=CC(=CC(=C1)C1CC1)Cl | C9H8BrCl
